US06743789B2
2-Chloro-4-(2,4-dimethoxy-benzyl)-7-methoxy-3,4-dihydro-benzo[e][1,4]diazepin-5-one
4-(2,4-Dimethoxy-benzyl)-7-methoxy-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (23.7 g, 67 mmol) and N,N-dimethyl-p-toluidine (19.2 mL, 133 mmol) were mixed in toluene (200 mL) and heated to 100° C. Then phosphorous oxide chloride (6.7 mL, 73 mmol) was added dropwise and heating at 100° C. was continued for 2.5 h. The resulting dark red solution was evaporated to dryness and the residue redissolved in THF (150 mL) and used directly in the subsequent step.

reactant | 4-(2,4-Dimethoxy-benzyl)-7-methoxy-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 67 mmol, 23.7 g | COC1=C(CN2CC(NC3=C(C2=O)C=C(C=C3)OC)=O)C=CC(=C1)OC | C19H20N2O5
reactant | N,N-dimethyl-p-toluidine | 133 mmol, 19.2 mL | CN(C1=CC=C(C=C1)C)C | C9H13N
reactant | phosphorous oxide chloride | 73 mmol, 6.7 mL | [Cl-].[P+]=O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-(2,4-dimethoxy-benzyl)-7-methoxy-3,4-dihydro-benzo[e][1,4]diazepin-5-one | ClC=1CN(C(C2=C(N1)C=CC(=C2)OC)=O)CC2=C(C=C(C=C2)OC)OC | C19H19ClN2O4
